US07776864B2
Step 3: 5-Chloro-2-methyl-6-phenylpyrazolo[1,5-a]pyrimidine
2.47 g 5,7-dichloro-2-methyl-6-phenylpyrazolo[1,5-a]pyrimidine is dissolved in 80 ml dichloromethane. 80 ml brine, 40 ml ammonia solution 25% w/w and 2.47 g zinc powder are added and the mixture is stirred at room temperature for 2 d. Four additional portions of 4.2 equivalents zinc powder are added over 4 days. The reaction mixture is filtrated over kieselgur and washed with dichloromethane and water. The organic phase is separated and the water phase extracted with dichloromethane. The combined dichloromethane phase is dried over Na2SO4 and the solvent is evaporated. The residue is purified on silica gel (dichloromethane/ethyl acetate) to yield the desired product.

reactant | 5,7-dichloro-2-methyl-6-phenylpyrazolo[1,5-a]pyrimidine | 2.47 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(C2)C | C13H9Cl2N3
reactant | ammonia | 40 ml | N | H3N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | brine | 80 ml | [Cl-].[Na+].O
catalyst | zinc | 2.47 g | [Zn] | Zn
catalyst | zinc | 4.2 equivalents | [Zn] | Zn
product | 5-Chloro-2-methyl-6-phenylpyrazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=C(C2)C | C13H10ClN3
